US05277709
4-Tolualdehyde (39.6 g, 0.33 mol) and 2M NaOH solution (230 ml) are added to a solution of levulinic acid (39.5 g, 0.34 mol) in EtOH (85 ml) over 1 hour. The resulting clear solution is poured into ice and acidified with 6M HCl. The resulting gum obtained is crystallised with acetone/water and recrystallised from CH2Cl2 to yield 14.0 g of 6-(4 methylphenyl)-4-oxo-hex-5-enoic acid as colourless crystals m.p. 129-130.

reactant | 4-Tolualdehyde | 0.33 mol, 39.6 g | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | NaOH | 2M, 230 ml | [OH-].[Na+]
reactant | levulinic acid | 0.34 mol, 39.5 g | C(CCC(=O)C)(=O)O | C5H8O3
reactant | HCl | 6M | Cl | ClH
solvent | EtOH | 85 ml | CCO | C2H6O
product | 6-(4 methylphenyl)-4-oxo-hex-5-enoic acid | 14.0 g | CC1=CC=C(C=C1)C=CC(CCC(=O)O)=O | C13H14O3
